US04000253
VI. p-Allylcarbamyloxyphenylisothiocyanate (Compound No. 3)
By a procedure similar to that of Example I, the above compound (11.1 g.) in the form of a waxy solid, was prepared from 9.1 g. (0.06 m.) of p-hydroxyphenylisothiocyanate and 5.0 g. (0.06 m.) of allylisocyanate, using 35 mls. of chloroform as a solvent and 3 drops each of triethylamine and dibutyltin dilaurate as catalysts.

reactant | p-hydroxyphenylisothiocyanate | OC1=CC=C(C=C1)N=C=S | C7H5NOS
reactant | allylisocyanate | C(C=C)N=C=O | C4H5NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
catalyst | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | p-Allylcarbamyloxyphenylisothiocyanate | C(C=C)NC(=O)OC1=CC=C(C=C1)N=C=S | C11H10N2O2S
